US07598257B2
Step 2: Methyl 1-[(tert-butoxycarbonyl)amino]methylcyclopentanecarboxylate
To a solution of methyl 1-cyanocyclopentanecarboxylate (1.26 g, 8.22 mmol) in methanol (100 mL) was added cobalt dichloride (2.1 g, 16.0 mmol). The purple mixture was cooled in an ice-water bath. Sodium tetrahydroborate (3.11 g, 82.2 mmol) was added portionwise with caution (exothermic) to provide a black mixture. Upon complete addition, cooling was discontinued and the reaction was stirred for 40 minutes under nitrogen and the reaction was quenched by the careful addition of 1N HCl (700 ml). The methanol was removed in vacuo, and the solution was then made alkaline (pH˜9) by the addition of concentrated NH4OH(aq). The mixture was extracted with DCM (6 times), and the combined DCM extracts were dried over sodium sulfate and concentrated to afford the crude product as a light yellow oil. To this crude amine in DCM (50 ml) was added di-tert-butyldicarbonate (1.31 g, 6.01 mmol) and the reaction was stirred at 25° C. for 30 minutes. The reaction was diluted with water and extracted with ethyl acetate three times. The combined extracts were dried over sodium sulfate, filtered, and the solvent removed in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (1.5 g, 71%).

reactant | methyl 1-cyanocyclopentanecarboxylate | 8.22 mmol, 1.26 g | C(#N)C1(CCCC1)C(=O)OC | C8H11NO2
reactant | Sodium tetrahydroborate | 82.2 mmol, 3.11 g | [BH4-].[Na+]
reactant | di-tert-butyldicarbonate | 6.01 mmol, 1.31 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 100 mL | CO | CH4O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | cobalt dichloride | 16.0 mmol, 2.1 g | [Co](Cl)Cl
product | Methyl 1-[(tert-butoxycarbonyl)amino]methylcyclopentanecarboxylate | 1.5 g, 71% | C(C)(C)(C)OC(=O)NCC1(CCCC1)C(=O)OC | C13H23NO4
